US07129290B2
2,7-Dioctyl-1,4,6,9,-tetraoxaspiro[4,4]nonane
In a 500 mL RB flask equipped with a reflux condenser, a stirrer and a Dean Stark trap were added 1,2-decanediol (38.48 g, 0.22 mol), and toluene (350 mL). After placing under nitrogen the resulting solution was heated to reflux for two h to remove water from the mixture. The solution was cooled to RT and 4-ethylbenzenesulfonic acid (0.35 g) and tetraethylorthocarbonate (21.3 g, 0.11 mol). The solution was heated to reflux and the azeotropic mixture collected. The reaction was refluxed until the temperature of the distillated reached 110° C. (boiling point of pure toluene). The collected azeotropic mixture was measured and weighed and then poured into brine, the organic phase was separate, which indicated ˜22 mL of ethanol was collected. The reaction was cooled to RT and triethylamine (2.5 mL) added. The toluene was removed at reduced pressure (rotovap) and the resulting liquid dried under vacuum. Vacuum distillation afforded the desired product as a water white clear liquid boiling at 195–197° C. at 240 Pa (25.44 g). 13C NMR indicated the product to be a mixture of isomers.

reactant | 1,2-decanediol | 0.22 mol, 38.48 g | C(C(CCCCCCCC)O)O | C10H22O2
reactant | 4-ethylbenzenesulfonic acid | 0.35 g | C(C)C1=CC=C(C=C1)S(=O)(=O)O | C8H10O3S
reactant | tetraethylorthocarbonate | 0.11 mol, 21.3 g | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | 2,7-Dioctyl-1,4,6,9,-tetraoxaspiro[4,4]nonane | C(CCCCCCC)C1OC2(OC1)OC(CO2)CCCCCCCC | C21H40O4
